US07855213B2
1-(3-Bromophenyl)-1-pyridin-4-yl-1H-isoindol-3-amine (Scheme #9, C)
To a solution of tert-butyllithium (1.7 M in pentane, 3.5 mL, 6.0 mmol) in tetrahydrofuran (20 mL) at −105° C. was a solution of 4-iodopyridine (0.68 g, 3.3 mmol) in tetrahydrofuran (10 mL) added drop wise. Next was a solution of N-[(3-bromophenyl)(2-cyanophenyl)methylene]-2-methylpropane-2-sulfinamide (1.2 g, 3.0 mmol) in tetrahydrofuran (10 mL) added. After 1 h at −105° C. was the reaction quenched by addition of water. The resulting mixture was partitioned between ethyl acetate and water, the organic phase was dried over magnesium sulfate and evaporated. The residue was dissolved in methanol (25 mL) and treated with hydrochloric acid (2 M in diethylether, 3.0 mL, 6.0 mml) over night. The reaction mixture was concentrated and then partitioned between aqueous saturated sodium bicarbonate and chloroform, the organic phase was dried over magnesium sulfate and concentrated. Purification by column chromatography using a stepwise gradient of methanol in ethyl acetate (5-10%) with 1% triethylamine afforded the title compound (0.66 g, 61%). 1H NMR (CDCl3) δ 8.56-8.48 (m, 2 H), 7.60-7.38 (m, 6 H), 7.27-7.21 (m, 3 H), 7.21-7.14 (m, 1 H), 5.16 (br s, 2 H); MS (AP) m/z 364, 366 [M+1]+.

reactant | tert-butyllithium | 6.0 mmol, 1.7 M, 3.5 mL | C(C)(C)(C)[Li]
reactant | 4-iodopyridine | 3.3 mmol, 0.68 g | IC1=CC=NC=C1 | C5H4IN
reactant | N-[(3-bromophenyl)(2-cyanophenyl)methylene]-2-methylpropane-2-sulfinamide | 3.0 mmol, 1.2 g | BrC=1C=C(C=CC1)C(=NS(=O)C(C)(C)C)C1=C(C=CC=C1)C#N | C18H17BrN2OS
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-(3-Bromophenyl)-1-pyridin-4-yl-1H-isoindol-3-amine | 0.66 g, 61% | BrC=1C=C(C=CC1)C1(N=C(C2=CC=CC=C12)N)C1=CC=NC=C1 | C19H14BrN3
